US05028629
Preparation of 2-(n-butylthio)-N-hydroxy-N-methylcinnamamide.
Pyridinium dichromate (284.6 g, .756 mol) is added to 1100 ml of methylene chloride. The compound 2-(n-butylthio)benzyl alcohol (99.0 g, 0.504 mol) in 160 ml of methylene chloride is added and the mixture stirred at room temperature for 2 days. The mixture is poured into 2000 ml of diethyl ether and filtered through diatomeceous earth (Celite®). The solids are washed extensively with diethyl ether and filtered. The filtrate and washings are combined and washed four times with lN HCl and then with brine, and dried over MgSO4 to afford the subtitle compound.

reactant | Pyridinium dichromate | .756 mol, 284.6 g | [Cr](=O)(=O)([O-])O[Cr](=O)(=O)[O-].[NH+]1=CC=CC=C1.[NH+]1=CC=CC=C1
reactant | 2-(n-butylthio)benzyl alcohol | 0.504 mol, 99.0 g | C(CCC)SC1=C(CO)C=CC=C1 | C11H16OS
reactant | diethyl ether | 2000 ml | C(C)OCC | C4H10O
solvent | methylene chloride | 160 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 1100 ml | C(Cl)Cl | CH2Cl2
product | 2-(n-butylthio)-N-hydroxy-N-methylcinnamamide | C(CCC)SC1=C(C=CC(=O)N(C)O)C=CC=C1 | C14H19NO2S
